US07220856B2
Preparation of 7-Chloro-4-[4-(1-phenylethylaminocarbonyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (62 mg, 0.25 mmol) and α-methylbenzyl isocyanate (42 μL, 0.30 mmol) in THF (10 mL) are reacted according to method C yielding the title product as a colorless solid after column chromatography with hexane-EtOAc.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 0.25 mmol, 62 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | α-methylbenzyl isocyanate | 0.30 mmol, 42 μL | CC(C1=CC=CC=C1)N=C=O | C9H9NO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-Chloro-4-[4-(1-phenylethylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC(C)C1=CC=CC=C1 | C22H23ClN4O
